US05364866
6-Fluoro-3-[1-[3-[(1-H-indol-4-yl)oxy]propyl]-4-piperidinyl]-1,2-benzisoxazole
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (3.5 g, 16 mmol), K2CO3 (2.2 g, 16 mmol), KI (200 mg), 4-(3-chloropropoxy)indole (3.0 g, 14 mmol) and CH3CN (100 ml) was stirred at reflux under N2 for 7 hours and then at ambient temperature for 68 hours. Reflux was resumed for an additional 6 hours whereupon a TLC revealed incomplete reaction. K2CO3 (0.5 g, 4 mmol) was added and the reaction was stirred at reflux for 17 hours. The cooled reaction was poured into H2O and the aqueous mixture was extracted with EtOAc. The organic extract was washed with H2O and saturated NaCl and after drying over MgSO4 the solvent was removed to afford 5.7 g of a beige solid. The product was purified by preparative HPLC (Water's Associates Prep LC/System 500 using 2 silica gel columns and 4% MeOH--CH2Cl2 as eluent) to yield 3.4 g (61%) of a beige solid. Two consecutive recrystallizations from EtOH provided 2.3 g (41%) of a white powder, m.p.=129°-131° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 16 mmol, 3.5 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 16 mmol, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(3-chloropropoxy)indole | 14 mmol, 3.0 g | ClCCCOC1=C2C=CNC2=CC=C1 | C11H12ClNO
reactant | CH3CN | 100 ml | CC#N | C2H3N
reactant | K2CO3 | 4 mmol, 0.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | O | H2O
product | 6-Fluoro-3-[1-[3-[(1-H-indol-4-yl)oxy]propyl]-4-piperidinyl]-1,2-benzisoxazole | 5.7 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C3C=CNC3=CC=C2)C=C1 | C23H24FN3O2
